US07462623B2
7-(3-chloropropoxy)-4-(2,3-methylenedioxypyrid-4-ylamino)-6-methoxyquinazoline
Using an analogous procedure to that described in Example 14, 4-chloro-7-(3-chloropropoxy)-6-methoxyquinazoline was reacted with 4-amino-2,3-methylenedioxypyridine to give the title compound in 68% yield; NMR Spectrum: (DMSOd6) 2.26 (m, 2H), 3.83 (m, 2H), 3.96 (s, 3H), 4.28 (m, 2H), 6.12 (s, 2H), 7.15 (br d, 1H), 7.25 (s, 1H), 7.61 (d, 1H), 7.81 (s, 1H), 8.49 (s, 1H), 9.79 (br s, 1H); Mass Spectrum: M+H+ 389.

reactant | 4-chloro-7-(3-chloropropoxy)-6-methoxyquinazoline | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCCl | C12H12Cl2N2O2
reactant | 4-amino-2,3-methylenedioxypyridine | NC1=C2C(=NC=C1)OCO2 | C6H6N2O2
product | 7-(3-chloropropoxy)-4-(2,3-methylenedioxypyrid-4-ylamino)-6-methoxyquinazoline | 68% yield | ClCCCOC1=C(C=C2C(=NC=NC2=C1)NC1=C2C(=NC=C1)OCO2)OC | C18H17ClN4O4
